Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Gentamicin / Flagyl / Ciprofloxacin / Nicotine / 
Asacol / Azulfidine / Hydrocortisone / Morphine / Iodine / 
pneumonia vaccine / tramadol / Cortisone
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
Pouchoscopy without interventions ___

 
History of Present Illness:
Ms. ___ is a ___ woman with severe UC (s/p colectomy
with J-pouch)and recurrent DVT on warfarin, who presents for
further evaluation of BRBPR. 

Her symptoms started yesterday evening when she first noted a
large volume of blood in the toilet. She did not have any stool
but had "cup fulls" of blood in the toilet. She continued to 
have
BRBPR today albeit improved quantity. She had similar episode
several years ago but was never able to determine the cause and
symptoms resolved spontaneously. Of note, 3 weeks ago, she was
diagnosed with a pouchitis in the setting of profuse diarrhea 
and
started on two week course of Augmentin (ended last week) with
resolution of diarrhea. She did have a single low grade fever on
___ to 100.7 shortly after cataract surgery but has not had
any recurrent fevers. She does endorse chills. She denies belly
pain, rectal pain, nausea, or vomiting. In the setting of
persistent BRBPR, she presented to the ED for further 
evaluation.

Of note, the patient was called on ___ and was told she had 
an
INR of 3.4.  She is not sure why her INR was supratherapeutic 
and
states that besides the augmentin 1 week prior, she has had no
changes in her medications.   

In the ED:
- Initial vital signs were: T98.9, BP 105/63, HR69, RR18, 99% on
RA.  
- Exam notable for:  benign abdomen with refusal of rectal exam.

- Labs were notable for:

Hg 11.3, plt 191, WBC 4.5
INR 4; lactate 1.2
Cr 0.9, K 4.2, bicarb 24
LFTs wnl

C.diff negative

- Studies performed include: n/a

- Patient was given: n/a

- Consults: GI recommending admission for pouchoscopy +/- EGD. 

- Vitals on transfer:  
98.1 PO 114 / 77 63 18 99 Ra 

Upon arrival to the floor, the patient no symptoms except for
hunger.  She continues to have bright red blood per rectum but
says it is much less than yesterday.  She denies any abdominal
pain, nausea, vomiting, chest pain, shortness of breath, fevers,
or chills.  The patient is nervous to have a sigmoidoscopy
because she had rectal bleeding last time the exam was 
performed.
 
Past Medical History:
Ulcerative Colitis- last flare almost ___ years ago  
DVT's - on coumadin, unclear when developed per pt, some time in 
___.  
Osteoporosis- on calcium, Vit D, Actonel  
 

 
Social History:
___
Family History:
Father w/ type II diabetes  
 
Physical Exam:
=======================
Admission Physical Exam
=======================
VITALS:  98.1 PO 114 / 77 63 18 99 Ra  
GENERAL: Alert and interactive. In no acute distress. looks
younger than stated age 
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. left eye with
injection and sensitive to light, Moist mucous membranes, good
dentition. Oropharynx is clear.  
NECK: No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
BACK: No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. healed midline abdominal scar
c/d/i
EXTREMITIES: No edema. Pulses DP/Radial 2+ bilaterally.  
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. AOx3.
GU: No noticeable external hemorrhoids 

=======================
Discharge Physical Exam
=======================
VS:  ___ 0620 Temp: 98.0 PO BP: 100/64 HR: 69 RR: 18 O2 
sat:
96% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress. 
HEENT: Normocephalic, atraumatic. Extraocular muscles intact.
Moist mucous membranes, good dentition. Oropharynx is clear.  
NECK: No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
BACK: No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. healed midline abdominal scar
c/d/i
EXTREMITIES: No edema. Pulses DP/Radial 2+ bilaterally.  
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. AOx3.
 
Pertinent Results:
===============
Admission Labs
===============
___ 10:53AM BLOOD WBC-4.5 RBC-3.55* Hgb-11.3 Hct-33.4* 
MCV-94 MCH-31.8 MCHC-33.8 RDW-12.5 RDWSD-43.0 Plt ___
___ 10:53AM BLOOD Neuts-56.2 ___ Monos-11.2 Eos-3.5 
Baso-0.7 Im ___ AbsNeut-2.55 AbsLymp-1.27 AbsMono-0.51 
AbsEos-0.16 AbsBaso-0.03
___ 10:53AM BLOOD ___ PTT-46.0* ___
___ 10:53AM BLOOD Glucose-84 UreaN-14 Creat-0.9 Na-141 
K-4.2 Cl-105 HCO3-24 AnGap-12
___ 10:53AM BLOOD ALT-13 AST-23 AlkPhos-41 TotBili-0.6
___ 10:53AM BLOOD Albumin-4.2
___ 10:58AM BLOOD Lactate-1.2

====================
Imaging/Procedures
====================
___ Pouchoscopy
Findings:
Mucosa:Normal appearing mucosa was noted in the pouch and neo 
TI. 
Excavated LesionsA few ulcers were found on the J pouch 
anastamosis. They were 4-8mm in size with evidence of contact 
bleeding when washed.  
Impression:Ulcers in the J pouch anastamosis
Normal appearing mucosa in the pouch and neo TI
Otherwise normal sigmoidoscopy to 15 cm into neo terminal ileum
Recommendations:- likely source of rectal bleeding was 
anastamotic ulcers in setting of supratherapeutic INR
- avoid supratherapeutic INR
- can try Carafate enemas PRN bleeding

===============
Discharge Labs
===============
___ 07:25AM BLOOD WBC-4.4 RBC-3.38* Hgb-10.7* Hct-31.7* 
MCV-94 MCH-31.7 MCHC-33.8 RDW-12.4 RDWSD-43.0 Plt ___
___ 07:25AM BLOOD ___ PTT-46.2* ___
___ 07:25AM BLOOD Glucose-81 UreaN-10 Creat-0.8 Na-142 
K-4.3 Cl-107 HCO3-24 AnGap-11
___ 07:25AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is a ___ woman with severe UC (s/p colectomy 
with J-pouch)and recurrent DVT on warfarin, who presents for
further evaluation of 

BRBPR with acute blood loss anemia
UC
h/o DVT on warfarin

She recently completed a course of antibiotics for pouchitis 
approximately one week ago. On the day prior to admission, she 
began experiencing bright red blood with bowel movements, 
prompting her to present to the ED. She experienced about 4 more 
episodes, each with less blood volume. She was found to have a 
supratherapeutic INR of 4, but Hg on admission was stable as 
were her vitals. Pouchoscopy performed ___ which demonstrated 
small ulcers in the J pouch at the site of anastamosis. 
Recommendations per GI post procedure
are to ensure good bowel regimen to maintain soft stools and to 
consider carafate enemas PRN bleeding. Given the significant 
reduction in lower GI bleeding, stable vitals, and stable 
hemoglobin of 10.7, she was felt safe for discharge. INR was 3.0 
with plan to hold warfarin on ___ and resume ___ at previous 
dosing with close INR check. 

TRANSITIONAL ISSUES: 
====================
# IF patient with mild recurrent lower GI bleeding, may benefit 
from trial of Carafate enemas. (Larger recurrent bleed would 
warrant more definitive intervention). 
# Please check repeat INR at PCP ___ on ___. 
# Please ensure GI ___ has been arranged.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 4 mg PO 2X/WEEK (___) 
2. Warfarin 3 mg PO 5X/WEEK (___) 
3. ibandronate 150 mg oral qmonthly  
4. Montelukast 10 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN allergies 
6. Ketorolac 0.5% Ophth Soln 1 DROP BOTH EYES QID 
7. ofloxacin 0.3 % ophthalmic (eye) QID 

 
Discharge Medications:
1.  Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN allergies  
2.  ibandronate 150 mg oral qmonthly   
3.  Ketorolac 0.5% Ophth Soln 1 DROP BOTH EYES QID  
4.  Montelukast 10 mg PO DAILY  
5.  ofloxacin 0.3 % ophthalmic (eye) QID  
6.  Warfarin 4 mg PO 2X/WEEK (___)  
7.  Warfarin 3 mg PO 5X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute blood loss anemia
anastomotic ulcers

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
  - You had bloody stools and required further evaluation to 
determine the cause of the bleeding

What was done while I was in the hospital?
  - You were seen by the GI doctors who used a camera to look at 
your J-pouch to determine cause of the bleeding. The procedure 
showed that you had a few ulcers that were likely the cause of 
the bleeding.
  - The bleeding stopped and your blood counts were stable when 
rechecked.

What should I do when I go home?
  - It is very important that you take your medications as 
prescribed
  - In regards to your warfarin, please do not take your dose on 
the day of discharge (___). Please resume your normal home 
dose on ___.
  - Please go to your scheduled appointment with your primary 
doctor.
  - If you have large volume recurrent bleeding or develop 
symptoms such as increased fatigue, dizziness, lightheadedness, 
or shortness of breath, please tell your primary doctor or go to 
the emergency room immediately. 

Best wishes, 
  Your ___ team

 
Followup Instructions:
___